Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Erythromycin Base / Sulfur
 
Attending: ___.
 
Chief Complaint:
R foot pain, drainage
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old famle who on ___ had her right 
foot injured when she stepped of a riding ___ and her foot 

went into the blade.  She underwent an I&D of her right foot and 

pinning of her ___ metatarsals. She was discharged in stable 
condition with a wound VAC. She noticed significantly increasing 
pain, foul odor, and drainage of her R foot for a few days prior 
to admission, and was sent to the emergency room for evaluation. 

 
Past Medical History:
Borderline HTN no meds required.
 
Social History:
___
Family History:
n/a
 
Physical Exam:
NAD, AOx3
RRR
CTAB
Soft, NT/ND
NEURO: WNL grossly
RLE: +malodor when foot undressed, excellent granulation tissue 
plantarly, good healing over sutures dorsally 
 
Pertinent Results:
___ 03:24PM   LACTATE-0.9
___ 03:14PM   GLUCOSE-116* UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-15
___ 01:35PM   WBC-4.6 RBC-4.49 HGB-12.7 HCT-36.9 MCV-82 
MCH-28.3 MCHC-34.4 RDW-12.4
___ 01:35PM   NEUTS-55.8 ___ MONOS-6.5 EOS-5.0* 
BASOS-0.6
___ 01:35PM   PLT COUNT-240
 
Brief Hospital Course:
Upon arrival, the patient had her wound VAC discontinued and had 
superficial wound cultures sent. She was admitted to the floor 
on Vanc/Zosyn for presumptive MRSA/Pseudomonas. This was 
discontinued on HD2 per ID in order to await culture results. 
She also received an MRI to assess for fluid collection which by 
ortho read was negative. She received LENIs to her RLE ___ calf 
pain which were also negative. 

Cultures were returned to be superficial MRSA + and Pseudomonas 
+. After consultation with infectious disease, she was started 
on PO CIPRO/DOXY on HD 5. She was discharged HD 6 without any 
significant event in the interim. Throughout this, she remained 
with wet --> dry dressing changes with continued excellent 
granulation.
 
Discharge Medications:
1. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous Q 
24H (Every 24 Hours) for 4 weeks.
Disp:*qs * Refills:*0*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain: Decrease dose with sleepiness.
Disp:*90 Tablet(s)* Refills:*0*
3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*0*
4. Ciprofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q12H 
(every 12 hours) for 4 weeks.
Disp:*168 Tablet(s)* Refills:*0*
5. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 4 weeks.
Disp:*56 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R foot infection, traumatic injury

 
Discharge Condition:
good

 
Discharge Instructions:
Continue to be non weight bearing on your Right lower extremity. 
Continue wound care with wet to dry dressing changes until your 
follow up appointment in 2 weeks. 

Take all medications as prescribed. 

If you develop severe pain, redness, increased 
drainage/bleeding, fever>101.4, or anything else that concerns 
you, return to the emergency room or call Dr. ___ 
___. 
Physical Therapy:
NWB RLE, use crutches. OK to ROM at knee and ankle as tolerated
Treatments Frequency:
Daily dressing changes wet ---> dry with sterile gauze and 
kerlex wrap. Elevate leg. No sutues in place. Monitor for 
signs/symptoms of infection.
 
Followup Instructions:
___